US07253286B2
N-(4-{6-Cyano-7-[3-dimethylamino-(2R)-2-hydroxy-propoxy]-quinolin-4-yloxy}-2-fluorophenyl)-N′-(4-fluorophenyl) urea
After adding tetrahydrofuran (0.5 ml) and a dimethylamine-2N tetrahydrofuran solution (Aldrich, 0.2 ml) to N-(4-{6-cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-fluorophenyl)-N′-(4-fluorophenyl)urea (40 mg), the mixture was stirred overnight at room temperature. The reaction solution was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to obtain the title compound (45 mg) as light yellow crystals.

reactant | dimethylamine | 2N, 0.2 ml | CNC | C2H7N
reactant | N-(4-{6-cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-fluorophenyl)-N′-(4-fluorophenyl)urea | 40 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C26H18F2N4O4
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | N-(4-{6-Cyano-7-[3-dimethylamino-(2R)-2-hydroxy-propoxy]-quinolin-4-yloxy}-2-fluorophenyl)-N′-(4-fluorophenyl) urea | 45 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H](CN(C)C)O)OC1=CC(=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)F | C28H25F2N5O4
